US07544697B2
A mixture of 7-benzyloxy4-chloro-2-ethyl-2H-pyrazolo[3,4-c]quinoline (1.20 g, 3.55 mmol) and 7 N ammonia in methanol (25 mL) was heated in a pressure vessel at 150° C. for 24 hours. The reaction mixture was concentrated under reduced pressure, purified via column chromatography on silica gel (eluting with 0-35% CMA/chloroform), concentrated under reduced pressure, and crystallized from acetonitrile to yield 0.93 g of 7-(benzyloxy)-2-ethyl-2H-pyrazolo[3,4-c]quinolin-4-amine as a tan solid, mp 229-230° C.

reactant | 7-benzyloxy4-chloro-2-ethyl-2H-pyrazolo[3,4-c]quinoline | 3.55 mmol, 1.20 g | C(C1=CC=CC=C1)OC=1C=CC=2C=3C(C(=NC2C1)Cl)=NN(C3)CC | C19H16ClN3O
reactant | ammonia | 7 N | N | H3N
solvent | methanol | 25 mL | CO | CH4O
product | 7-(benzyloxy)-2-ethyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 0.93 g | C(C1=CC=CC=C1)OC=1C=CC=2C=3C(C(=NC2C1)N)=NN(C3)CC | C19H18N4O
